US05356947
Synthesis of Copolymer of VDM/DMAEMA/Tris (20/75/5)
Into a 946 ml clear bottle were charged VDM (20 parts), DMAEMA (75 parts), Tris (5 parts), XDC (4.0 parts) and 100 parts of EtOAc. The solution was purged for 10 minutes, the bottle was sealed, placed on a roller mill, and irradiated with a bank of six GE 15 watt cylindrical black light lamps. The mixture became progressively more viscous. After 24 hours of irradiation the bottle was removed. Quantitative conversion was achieved as shown by a percent solids analysis.

reactant | DMAEMA | CC(=C)C(=O)OCCN(C)C | C8H15NO2
reactant | Tris | C(C(CO)(CO)N)O | C4H11NO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | DMAEMA Tris | CC(=C)C(=O)OCCN(C)C.C(C(CO)(CO)N)O | InChI=1S/C8H15NO2.C4H11NO3/c1-7(2)8(10)11-6-5-9(3)4;5-4(1-6,2-7)3-8/h1,5-6H2,2-4H3;6-8H,1-3,5H2
